US07786165B2
3-[4-({4-[(2,2-dimethylquinolin-1(2H)-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid calcium salt
3-[4-({4-[(2,2-Dimethylquinolin-1(2H)-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid (0.12 g, 0.24 mmol) was dissolved in methanol (2 mL), and 1 N aqueous sodium hydroxide solution (0.24 mL, 0.24 mmol) was added. A solution of calcium chloride (13 mg, 0.12 mmol) in water (1 mL) was added, and the precipitated solid was collected by filtration, washed with water and methanol and dried to give the title compound (53 mg, yield 43%) as a colorless powder.

reactant | 3-[4-({4-[(2,2-Dimethylquinolin-1(2H)-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid | 0.24 mmol, 0.12 g | CC1(N(C2=CC=CC=C2C=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=C1)OC(C)C)C | C31H35FN2O3
reactant | sodium hydroxide | 0.24 mmol, 1 N, 0.24 mL | [OH-].[Na+]
reactant | calcium chloride | 0.12 mmol, 13 mg | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-[4-({4-[(2,2-dimethylquinolin-1(2H)-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid calcium salt | 53 mg, yield 43% | [Ca+2].CC1(N(C2=CC=CC=C2C=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)[O-])F)C=C1)OC(C)C)C.CC1(N(C2=CC=CC=C2C=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)[O-])F)C=C1)OC(C)C)C | InChI=1S/2C31H35FN2O3.Ca/c2*1-21(2)37-29-17-22(19-33-26-13-11-23(27(32)18-26)12-14-30(35)36)9-10-25(29)20-34-28-8-6-5-7-24(28)15-16-31(34,3)4;/h2*5-11,13,15-18,21,33H,12,14,19-20H2,1-4H3,(H,35,36);/q;;+2/p-2
